US05514680
A mixture of 1,2-diamino-4-fluoro-6-nitrobenzene (80 mg, 0.46 mmole) and oxalic acid dihydrate (70 mg, 0.56 mmole, used as received) in 4N HCl (4 mL) was refluxed at 120°-5° C. for 3 h, then cooled to room temperature. The mixture was centrifuged and the supernatant was removed. The yellow solid was washed by cold water (2×2 mL), collected by filtration, and dried in vacuo for 2 h, affording 45 mg of crude 7-fluoro-5-nitro-1,4-dihydro-2,3-quinoxalinedione (42%) as a yellow powder. The crude product was taken up in 1N NaOH (1 mL) and filtered. The filtrate was acidified to pH=3, affording 35 mg of 7-fluoro-5-nitro-1,4-dihydro-2,3-quinoxalinedione (33%), mp: 333°-335° C. (dec.), IR (KBr, cm-1): 3427, 3328, 3104, 3072, 1716, 1545. 1H NMR (DMSO-d6): δ12.418 (s, 1H), 11.149 (s, 1H), 7.819 (dd, J1 =2.4 Hz, J2 =9.0 Hz, 1H), 7.297 (dd, J1 =2.4 Hz, J2 =9.0 Hz, 1H); HRMS: calcd for C8H4FN3O4 (M+) m/z: 225.0185; found: 225.0188.

reactant | 1,2-diamino-4-fluoro-6-nitrobenzene | 0.46 mmole, 80 mg | NC1=C(C=C(C=C1[N+](=O)[O-])F)N | C6H6FN3O2
reactant | oxalic acid dihydrate | 0.56 mmole, 70 mg | O.O.C(C(=O)O)(=O)O
solvent | HCl | 4N, 4 mL | Cl | ClH
product | 7-fluoro-5-nitro-1,4-dihydro-2,3-quinoxalinedione | 45 mg, 42% | FC1=CC(=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-] | C8H4FN3O4
